### PR TITLE
feat: `ValuativeRel` instance for `Surreal`

### PR DESCRIPTION
**Pull request by vihdzp**
We define a `ValuativeRel` instance on `Surreal` compatible with `ArchimedeanClass.valuation`, so that we can write `x ≤ᵥ y` in place of the much longer and dubiously ordered `ArchimedeanClass.mk y ≤ ArchimedeanClass.mk x`.

### CODE REVIEW

File: CombinatorialGames/Surreal/Pow.lean [hunk 1]
```diff
@@ -688,42 +714,47 @@ theorem wlog_surjective : Function.Surjective wlog :=
...
 
-theorem wlog_le_wlog_iff (hx : x ≠ 0) (hy : y ≠ 0) :
-    ArchimedeanClass.mk x ≤ ArchimedeanClass.mk y ↔ wlog y ≤ wlog x := by
-  rw [← mk_wpow_le_mk_wpow_iff, mk_wpow_wlog hx, mk_wpow_wlog hy]
-
-theorem wlog_le_wlog_of_mk_le_mk (hy : y ≠ 0) (h : ArchimedeanClass.mk x ≤ ArchimedeanClass.mk y) :
-    wlog y ≤ wlog x := by
-  obtain rfl | hx := eq_or_ne x 0; · simp_all
-  rwa [← wlog_le_wlog_iff hx hy]
+theorem wlog_le_wlog_iff (hx : x ≠ 0) (hy : y ≠ 0) : wlog x ≤ wlog y ↔ x ≤ᵥ y := by
```
Comment (wwylele) [inline CombinatorialGames/Surreal/Pow.lean:725]: I wonder if `@[gcongr]` works with these

**Review by wwylele — APPROVED** [review]

**Review by plp127 — APPROVED** [review]

File: CombinatorialGames/Surreal/Pow.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Pow.lean:725]: It should after [#33025](https://github.com/leanprover-community/mathlib4/pull/33025).
